US06818787B2
Step A: 2-Isopropyl-1,3-Dithiane (100)
To a mixture of isobutyraldehyde (9.1 mL, 100 mmol) and 1,3-propanedithiol (10 mL, 100 mmol) in dichloromethane at 0° C. was added boron trifluoride diethyl etherate (6.4 mL, 50 mmol). The resulting mixture was stirred at 0° C. for 30 min and at room temperature for 30 min. The reaction mixture was washed with brine, 5%NaHCO3, and brine again. The organic phase was separated and dried over Na2SO4, then concentrated to give 16 g (100%) of the title compound as a yellow liquid. This was carried to the next step without further purification. 1H NMR (CDCl3, 400 MHz): δ 1.057 (d, J=7.2 Hz, 3H), 1.059 (d, J=7.2 Hz, 3H), 1.80 (m, 1H), 1.97-2.08 (m, 2H), 2.82 (m, 4H), 4.00 (d, J=5.2 Hz, 1H).

reactant | isobutyraldehyde | 100 mmol, 9.1 mL | C(C(C)C)=O | C4H8O
reactant | 1,3-propanedithiol | 100 mmol, 10 mL | C(CCS)S | C3H8S2
reactant | boron trifluoride diethyl etherate | 50 mmol, 6.4 mL | B(F)(F)F.CCOCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Isopropyl-1,3-Dithiane | 16 g, 100% | C(C)(C)C1SCCCS1 | C7H14S2
